US06787539B2
To a solution of 0.70 g (2.08 mmol) 2-pyridin-4-yl-4-o-tolyloxy-pyrimidine-5-carboxylic acid ethyl ester in 20 ml ethanol a solution of 0.12 g (3.12 mmol) sodiumhydroxide in 10 ml water was added and the resulting mixture was stirred 2 h at RT. The pH of the solution was adjusted to 3 with 25% HCl. The mixture was extracted twice with CH2Cl2. The combined organic phases were dried (Na2SO4), filtered and evaporated. The resulting solid was triturated twice with 10 ml ethanol, filtered off and dried to give 0.60 g (94%) 2-pyridin-4-yl-4-o-tolyloxy-pyrimidine-5-carboxylic acid as a colorless solid, MS (EI): 307.1 (M+).

reactant | 2-pyridin-4-yl-4-o-tolyloxy-pyrimidine-5-carboxylic acid ethyl ester | 2.08 mmol, 0.70 g | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=NC=C1)OC1=C(C=CC=C1)C | C19H17N3O3
reactant | sodiumhydroxide | 3.12 mmol, 0.12 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-pyridin-4-yl-4-o-tolyloxy-pyrimidine-5-carboxylic acid | 0.60 g, 94% | N1=CC=C(C=C1)C1=NC=C(C(=N1)OC1=C(C=CC=C1)C)C(=O)O | C17H13N3O3
